US07446121B2
To a solution of (6-{2-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl}-2,2-dimethyl-[1,3]dioxan-4-yl)-acetic acid tert-butyl ester (0.360 g, 0.61 mmol) in MeOH (20 mL) was added 1N HCl (2 mL) and the solution was stirred for 3 hrs at 25° C. Subsequently, the reaction solvent was removed under reduced pressure and ethyl acetate (50 mL) and saturated NaHCO3 (10 mL) were added. The organic layer was separated, washed with brine, dried (Na2SO4) and concentrated to afford, after silica gel chromatography (35% EtOAc/Hex), 7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-hept-6-enoic acid tert-butyl ester (0.231 g, 69%). Subsequently, to a solution of 7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-hept-6-enoic acid tert-butyl ester (0.241 g, 0.437 mmol) in MeOH (20 mL) was added 10% Pd-C (50 mg; commercially available from Sigma Aldrich), and the reaction vessel was evacuated and filled with hydrogen gas (via balloon) for 3 hours. The reaction mixture was then filtered through a pad of celite and to the filtrate was added The crude product was purified by silica gel chromatography (30-50% EtOAc/Hex) to provide (3R,5R)-7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-heptanoic acid tert-butyl ester (0.143 g, 59%): MS(APCI+): m/z554.3 (M+H).

reactant | HCl | 1N, 2 mL | Cl | ClH
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | 7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-hept-6-enoic acid tert-butyl ester | 0.231 g | C(C)(C)(C)OC(CC(CC(C=CC=1N(N=C(C1C(C)C)C(NCC1=CC=CC=C1)=O)C1=CC=C(C=C1)F)O)O)=O | C31H38FN3O5
reactant | 7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-hept-6-enoic acid tert-butyl ester | 0.437 mmol, 0.241 g | C(C)(C)(C)OC(CC(CC(C=CC=1N(N=C(C1C(C)C)C(NCC1=CC=CC=C1)=O)C1=CC=C(C=C1)F)O)O)=O | C31H38FN3O5
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd-C | [Pd] | Pd
product | (3R,5R)-7-[5-benzylcarbamoyl-2-(4-fluoro-phenyl)-4-isopropyl-2H-pyrazol-3-yl]-3,5-dihydroxy-heptanoic acid tert-butyl ester | 0.143 g, 59% | C(C)(C)(C)OC(C[C@@H](C[C@@H](CCC=1N(N=C(C1C(C)C)C(NCC1=CC=CC=C1)=O)C1=CC=C(C=C1)F)O)O)=O | C31H40FN3O5
